Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Hydralazine / Cefepime
 
Attending: ___
 
Chief Complaint:
fatigue
 
Major Surgical or Invasive Procedure:
___ placement

 
History of Present Illness:
___ with history of CML diagnosed in ___, treated with 
"medicines" who presents for transplant evaluation.  She has 
been doing well until the past week when she developed extreme 
fatigue.  She feels as if she has no energy and that her heart 
pounds when she walks around.  She denies any fever, cough, pain 
with urination, rashes.  She does have some abdominal pain, 
mostly on the left side and had one episode of diarrhea 
yesterday.  She has not had any recent antibiotic use.  She also 
admits to sweating at night over the past week. 
.  
Review of Systems:  
(+) Per HPI  
(-) Denies Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies chest pain or tightness, Denies cough, 
shortness of breath, or wheezes. Denies nausea, vomiting, 
constipation  No recent change in bowel or bladder habits. No 
dysuria. Denies arthralgias or myalgias. Denies rashes or skin 
breakdown. No numbness/tingling in extremities. No feelings of 
depression or anxiety. All other review of systems negative.
 
Past Medical History:
ONCOLOGIC HISTORY:

- ___: Asymptomatic abnormal CBC noted by PCP during routine

visit

- ___: Bone marrow biopsy showed myeloproliferative

disorder, likely chronic myelogenous leukemia. Per patient

report, began taking interferon three times weekly shortly

after diagnosis.

- ___: Started ___ 400 mg daily. At some point

thereafter, her dose was increased to 600 mg daily

- ___: ___ increased to 400 mg twice daily with

hydroxyurea and allopurinol

- ___: Seen at ___, found to be

in late chronic phase CML. Stem cell transplant was

recommended, but she did not wish to pursue this course.

- ___: ___ held due to worsening anemia and

thrombocytosis. Started on Nilotinib

- ___: Nilotinib held due to QTC prolongation, started on

Dasatinib

Other Past Medical History:
CABG in ___, no history of chf per patient
htn
hlp 

 
Social History:
___
Family History:
nc
 
Physical Exam:
V 101.3, 100/60, 87, 97% on ra
gen: awake, alert, diaphoretic
HEENT:  no lad, no thyromegaly, ncat
CV:  rrr, s1, s2, ___ sem at base, ___ holosystolic murmur at 
___, increasing with inspiration
PULM:  cta b/l
ABD:  soft, non tender non distended, no rebound or guarding
LIMBS:  no c/c/e
SKIN:  no rashes

 
Pertinent Results:
___ 02:30PM BLOOD WBC-23.7* RBC-2.08* Hgb-6.1* Hct-17.6* 
MCV-85 MCH-29.4 MCHC-34.7 RDW-15.0 Plt ___
___ 02:30PM BLOOD Neuts-41* Bands-3 Lymphs-10* Monos-0 
Eos-3 Baso-0 ___ Metas-10* Myelos-15* Promyel-4* Other-14*
___ 02:30PM BLOOD Hypochr-NORMAL Anisocy-1+ 
Poiklo-OCCASIONAL Macrocy-NORMAL Microcy-2+ Polychr-NORMAL 
Ovalocy-1+
___ 07:45AM BLOOD ___ PTT-27.9 ___
___ 03:13AM BLOOD ___ 12:00AM BLOOD ___ ___
___ 02:30PM BLOOD UreaN-14 Creat-0.8 Na-139 K-4.0 Cl-102 
HCO3-25 AnGap-16
___ 02:30PM BLOOD ALT-7 AST-9 CK(CPK)-35 AlkPhos-63 
TotBili-0.8
___ 02:30PM BLOOD CK-MB-1 cTropnT-0.04*
___ 07:45AM BLOOD CK-MB-1 cTropnT-0.02*
___ 02:30PM BLOOD TotProt-6.4 Albumin-4.1 Globuln-2.3 
Calcium-8.8 Phos-3.0 Mg-1.8
___ 02:30PM BLOOD TSH-3.2
___ 07:45AM BLOOD Hapto-255*
___ 02:30PM BLOOD BCR/ABL MINOR AND MAJOR BREAKPOINT 
ANALYSIS BY PCR-Test      
___ 07:00PM BLOOD B-GLUCAN-Test      
___ 07:00PM BLOOD ASPERGILLUS GALACTOMANNAN ANTIGEN-Test    
  
___ 02:50PM URINE Color-Yellow Appear-Hazy Sp ___
___ 02:50PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-4* pH-5.5 Leuks-TR
___ 02:50PM URINE RBC-2 WBC-6* Bacteri-FEW Yeast-NONE Epi-1 
TransE-<1
___ 02:50PM URINE CastHy-1*
___ 02:50PM URINE Mucous-OCC

Bone Marrow:
___:
MARKEDLY HYPERCELLULAR MYELOID DOMINANT BONE MARROW WHICH, IN 
CONJUNCTION WITH PERIPHERAL BLOOD BASOPHILIA, IS CONSISTENT WITH 
CHRONIC MYELOID LEUKEMIA IN ACCELERATED PHASE. 

___:
Severely hypocellular bone marrow, with ___ blasts, see note.

Note: The marrow is severely hypocellular with rare 
hematopoietic elements that are left shifted. Rare focal 
atypical myeloid blasts and left shifted myeloid elements are 
present.  Immunohistochemistry for CD34 and CD117 reveal about 
___ of marrow cells as precursor blasts. Since residual CML 
cannot be frequently distinguished from normal hematopoiesis, 
correlation with cytogenetics (OCA: other chromosomal 
abnormalities), BCR-ABL transcript levels and BAMA (bcr-abl 
mutation analysis) is recommended.

Imaging:
CXR ___:
FINDINGS: Normal lung volumes. Moderate cardiomegaly. No 
evidence of
pulmonary edema. Status post CABG, correct alignment of the 
wires. Mild
tortuosity of the thoracic aorta. No evidence of pneumonia, no 
pleural
effusions.

___:
CT Abdomen/Pelvis:
1. No evidence of pneumonia within the chest.
2. Massive splenomegaly measuring up to 25.2 cm in craniocaudad 
___.
3. Multiple scattered mediastinal and retroperitoneal lymph 
nodes, all of
which do not meet size criteria for pathologic enlargement.
4. Extensive atherosclerotic calcification involving the 
thoracoabdominal
aorta and its major branches, and the coronary arteries

TTE 
___:
 The left atrium is mildly dilated. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Doppler parameters are indeterminate for 
left ventricular diastolic function. There is no ventricular 
septal defect. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Trivial mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. There is moderate pulmonary artery systolic 
hypertension. There is no pericardial effusion.

IMPRESSION: Normal regional and global lef ventricular systolic 
function. The right ventricle is not well seen. There is 
moderate pulmonary artery systolic hypertension. No pathologic 
valvular abnormality seen.  

___:
CT Abdomen/Pelvis:
1. Massive splenomegaly, unchanged.
2. Small left pleural effusion.
3. Small amount of free intraperitoneal fluid, without organized 
fluid
collection. Moderate amount of fluid in cul-de-sac.

CT HEAD
___:
1. No evidence of intracranial hemorrhage, specifically no 
evidence of
subdural hematoma.
2. Chronic small vessel disease.

TTE:
___:
The left atrium is mildly dilated. The estimated right atrial 
pressure is ___ mmHg. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
>55%). The estimated cardiac index is normal (>=2.5L/min/m2). 
Tissue Doppler imaging suggests a normal left ventricular 
filling pressure (PCWP<12mmHg). Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic regurgitation. The mitral valve leaflets 
are structurally normal. There is no mitral valve prolapse. Mild 
(1+) mitral regurgitation is seen. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion.

IMPRESSION: Normal biventricular cavity sizes with preserved 
global and regional biventricular systolic function. Mild mitral 
regurgitation with normal valve morphology.
Compared with the prior study (images reviewed) of ___, the 
findings are similar (PA systolic pressure could not be 
estimated on the current study). 

CT CHEST:
___:
1. New 6-mm nodule in the posterior segment of the right upper 
lobe.
Recommend a 6-month followup CT.
2. No pleural effusion, focal consolidation concerning for 
infection or
pneumothorax.
3. Splenomegaly improved.
 
Brief Hospital Course:
___ with history of CML with new fatigue who was found to have 
severe anemia and elevated WBC on cbc done today in workup for 
possible transplant.  Patient became febrile after admission to 
the hospital.

# Accelerated phase CML: Patient was anemic on admission and 
transfused.  It was decided that patient should undergo 
myeloablative induction for possible allogeneic stem cell 
transplant.  Patient started induction chemotherapy on ___ 
with cytarabine and idarubicin (7+3) according to protocol.  Her 
dasatinib was held.  Her ANC nadir was ___. Her course was 
complicated by fevers for which she was started on vancomycin 
and cefepime and her PICC line was removed.  Blood cultures, 
urine cultures and stool cultures remained negative. She 
developed a diffuse rash, and dermatology was consulted.  It was 
felt that this may have been a drug rash related to cefepime, 
vancomycin or hydralazine and she was treated with topical 
steroids.  Hydralazine and cefepime were stopped and aztreonam 
was started.  She spiked a temperature of 101 on ___ and 
aztreonam was changed to meropenem.  She defervesced and 
remained afebile for the remainder of her hospitalization.  
Cultures remained negative.  Her ___ recovered to 1829 on 
___.  A pre transplant work up was completed as an inpatient, 
including infectious disease consultation and dental 
consultation.

# History of CAD: Patient was continued on her home dose of 
statin.  She was ruled out for myocardial infarction with serial 
cardiac biomarkers.  Her metoprolol was uptitrated during this 
admission due to hypertension and she was discharged on 100 mg 
PO tid. 

# HTN: Patient was initially started on her home dose of 
metoprolol.  She had several episodes of elevated blood pressure 
and her metoprolol was uptitrated to 100mg PO tid.  She was 
started on hydralazine, but it was later stopped ___ drug rash.  
She was started on valsartan 80mg PO daily, with improved 
control of her blood pressure.

# Pancytopenia: After treatment with 7+3, patient was 
periodically transfused with PRBCs to maintain her hematocrit 
above 25 and platelets to maintain her platelets above 10.  
 
# FEN: Neutropenic diet, Mg, K and Phos were repleted by 
protocol. 

# Code: FULL  

 
Medications on Admission:
sprycel 50 mg 1 tab twice daily
ferrous sulfate 1 tab daily
metoprolol 200 mg 1 tab daily
lipitor 20 mg 1 tab daily
hydrocod/ap 7.5/500 1 tab prn q ___ hours
allopurinol ___ mg 1 tab daily

 
Discharge Medications:
1. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*0*
2. Valsartan 80 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
3. Metoprolol Tartrate 50 mg Tablet Sig: Two (2) Tablet PO TID 
(3 times a day).
Disp:*180 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Accelerated Phase Chronic Myeloid Leukemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for treatment of recurrent leukemia.  You were 
treated with a chemotherapy regimen known as "7+3" which 
consists of cytarabine and daunorubicin.  Your course was 
complicated by fevers, and you were treated with antibiotics.  
You also developed a rash, which may have been caused by one or 
more of the antibiotics.  Your blood counts recovered, your 
fevers resolved and all antibiotics were stopped.

Please note the following changes in your medications:
- Please START Valsartan (Diovan) 80mg by mouth daily
- Please START Metoprolol tartrate 100mg by mouth, three times 
daily.
- Please START Omeprazole 40mg by mouth daily
- Please STOP taking sprycell
 
Followup Instructions:
___